Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cyclosporine / formaldehyde / Orencia
 
Attending: ___.
 
Chief Complaint:
Drainage of rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year woman with medical history notable for
HTN, rheumatoid arthritis, COPD and refractory atopic dermatitis
who presents from ___ clinic with worsening of rash. 

She has had years-long history of refractory atopic dermatitis.
She has used triamcinolone cream without effect, cyclosporine
which resulted in renal failure, MMF without effect, and
methotrexate for RA but this was also ineffective for her rash.
She was initially receiving narrowband therapy but did not
tolerate this due to skin burning. She was approved for 
dupilumab
but could not afford the co-pay. On ___ she established with
___ dermatology and was put on a prednisone taper with
betamethasone and hydroxyzine, and recommended to resume
phototherapy. There were also plans to start dupilumab with a
possible compassionate care exception. 

She was unable to start phototherapy or dupilumab due to 
expense.
She had initially improved slightly after her steroid taper, but
at her ___ follow-up, her skin findings had returned to prior 
to
this initial visit. She was severely symptomatic from itching at
this time. She was started on an additional steroid taper and
Protopic ointment was added. Tacrolimus ointment was also added.
Further efforts were made to get the patient phototherapy and
dupilumab. By ___ she has improved somewhat on these treatments. 


On ___ she began having serous drainage from her rash, and was
noted at dermatology follow-up to have open areas of exudative
skin and severe itching. Lichenified plaques covered 60% of BSA.
She was referred to the ED ___ for IV antibiotics, prednisone,
and further evaluation. Dermatology is still hoping to start the
patient dupilumab, and if not financially possible, may start
cyclosporine. 

In the ED initial vital signs were notable for: 99.1  94 124/84
18 98% RA. Labs were unremarkable. 
Patient was given: IV cefazolin, prednisone 60mg, 
diphenhydrAMINE
25 mg. 

On the floor she reports severe itching. She feels in general
things turned for the worse about ___ year ago. The prednisone
tapers did help. She more recently noticed clear drainage from
the rash on her chest and neck yesterday which prompted her to
call dermatology. She has had chills, but checked her 
temperature
at home and it was normal. 

 
Past Medical History:
COPD
HTN
Rheumatoid arthritis (s/p several immunosuppressive agents)
Refractory ectopic dermatitis
 
Social History:
___
Family History:
Denies significant family history of medical disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: ___ 1754 Temp: 98.2 PO BP: 155/94 HR: 86 RR: 18 O2
sat: 94% O2 delivery: RA 
General: very well-appearing, thin, itching forearms and chest
constantly during interview, no distress
CV: RRR, no murmurs
PULM: Decreased air movement diffusely, no wheezes or rales, no
increased work-of breathing
ABD: soft, NT, ND
EXT: No ___ edema, WWP
Skin: both arms, chest, neck, shoulders and legs with 
innumerable
lichenified plaques slightly obscured by dark skin, with some
excoriations and scaling, no signs of drainage

DISCHARGE PHYSICAL EXAM:
___ Temp: 97.9 PO BP: 147/87 HR: 81 RR: 20 O2 sat:
97% O2 delivery: Ra
General: older well appearing woman in no acute distress
CV: RRR, normal s1/s2, no murmurs
PULM: CTAB, no wheezes, rales, or rhonchi
ABD: soft, nontender, nondistended, normal bowel sounds
EXT: No ___ edema, warm and well perfused
Skin: both arms, chest, neck, shoulders and legs with 
innumerable
lichenified plaques, with some secondary changes of excoriations
and scaling, no signs of drainage; also has dry skin/scale of
face; hyperpigmentation of right leg > left
 
Pertinent Results:
ADMISSION LABS NOTABLE FOR:

___ 12:00PM   WBC-8.0 RBC-4.87 HGB-11.9 HCT-38.3 MCV-79* 
MCH-24.4* MCHC-31.1* RDW-19.1* RDWSD-53.4*
___ 12:00PM   NEUTS-77.7* LYMPHS-10.0* MONOS-6.1 EOS-5.6 
BASOS-0.4 IM ___ AbsNeut-6.25* AbsLymp-0.80* AbsMono-0.49 
AbsEos-0.45 AbsBaso-0.03
___ 12:00PM   GLUCOSE-95 UREA N-19 CREAT-1.1 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-26 ANION GAP-13

No imaging performed.

Discharge labs notable for:

___ 06:20AM BLOOD WBC-7.5 RBC-4.52 Hgb-11.2 Hct-35.5 
MCV-79* MCH-24.8* MCHC-31.5* RDW-18.9* RDWSD-53.5* Plt ___
___ 06:20AM BLOOD Glucose-82 UreaN-26* Creat-0.8 Na-143 
K-4.3 Cl-105 HCO3-26 AnGap-12
 
Brief Hospital Course:
The patient is a ___ year woman with medical history notable for 
HTN, rheumatoid arthritis, COPD and refractory atopic 
dermatitis, who presented from ___ clinic with worsening 
eczema and concern for cellulitis. 

ACUTE ISSUES
#Atopic dermatitis
Patient has failed multiple steroid tapers as an outpatient. 
There was report of drainage of skin lesions at outpatient 
dermatologist, but this improved by the time of admission. The 
patient was started on prednisone 60mg daily. A course of 
cephalexin was continued for risk of possible infection. 
Dermatology was involved and recommended starting cyclosporine 
for further treatment. Patient started on PPI and vitamin D as 
prophylaxis in setting of steroid use. The patient's renal 
function remained stable in-house while on cyclosporine.

CHRONIC ISSUES
#COPD
Patient's home inhaler regimen was not on formulary. Patient 
continued to breathe comfortably with as needed albuterol.

#Hypertension
Continued home amlodipine.

TRANSITIONAL ISSUES
[ ] Continue to take cyclosporine 75 mg twice daily; patient 
will need to get cyclosporine level and creatinine checked on 
___ with results to be sent to dermatologist; goal level 100
[ ] Cephalexin to complete 5 day course until ___
[ ] Plan for prednisone taper 60mg for 3 days, then 50mg for 3 
days, then 40mg for 3 days, then 30mg for 3 days, then 20mg for 
3 days, and then 10mg for 3 days
[ ] Triamcinolone cream below the neck two times per day for 2 
weeks
[ ] Eucerin cream and other emollients as frequently as possible 
over entire body
[ ] Pantoprazole and vitamin D while on steroids
[ ] Dermatology attempting to move-up follow-up appointment to 1 
week
 
Medications on Admission:
1. amLODIPine 5 mg PO DAILY 
2. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
3. Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY 
4. Breo Ellipta (fluticasone-vilanterol) 100-25 mcg/dose 
inhalation DAILY 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
DAILY:PRN shortness of breath 
6. methoxsalen 10 mg oral DAILY 
7. Betamethasone Valerate 0.1% Ointment 1 Appl TP DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
Atopic dermatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___.

Why was I admitted to the hospital?
-There was concern that your eczema may have become infected.

What was done in the hospital?
-Blood tests were performed to look for an infection
-You were treated with antibiotics for possible skin infection
-You were given prednisone to control the flare of your eczema
-Dermatology saw you and recommended starting a medication for 
your eczema called cyclosporine

What should I do when I get home?
-Continue to take cyclosporine 75 mg twice daily; you will need 
to get the level of cyclosporine and your kidneys checked on 
___ please go to the lab 30 minutes to 1 hour before 
you take your morning dose of cyclosporine
-Continue to take your antibiotic (cephalexin) until ___
-You will take prednisone 60mg for 3 days, then 50mg for 3 days, 
then 40mg for 3 days, then 30mg for 3 days, then 20mg for 3 
days, and then 10mg for 3 days
-You should use the triamcinolone cream below your neck two 
times per day for 2 weeks
-You should use the Eucerin cream and other emollients as 
frequently as possible over your entire body
-We are working to move your dermatology appointment to next 
week; you should expect a phone call from the dermatology office
-Continue to take your other home medications as prescribed

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___